datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])[C:7](=[C:8]([H:19])[H:20])[H:18])[H:11])([H:9])[H:10].[C:21](=[C:22]([C:23]([C:24]([H:30])([H:31])[H:32])[C:25](=[C:26]([H:34])[H:35])[H:33])[H:29])([H:27])[H:28]>>[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])[C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])([C:7](=[C:8]([H:19])[H:20])[H:18])[C:23]([C:22](=[C:21]([H:27])[H:28])[H:29])([C:24]([H:30])([H:31])[H:32])[C:25](=[C:26]([H:34])[H:35])[H:33])[H:11])([H:9])[H:10],64.057
[C:0]([C:1]([S:2][H:12])[c:3]1[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]1[H:17])([H:9])([H:10])[H:11].[C:18]([c:19]1[c:20]([H:28])[c:21]([H:29])[c:22]([H:30])[c:23]([H:31])[c:24]1[H:32])([H:25])([H:26])[H:27]>>[C:0]([C:1]([S:2][H:12])([c:3]1[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]1[H:17])[H:25])([H:9])([H:10])[H:11].[C:18]([c:19]1[c:20]([H:28])[c:21]([H:29])[c:22]([H:30])[c:23]([H:31])[c:24]1[H:32])([H:26])[H:27],50.208
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:23])([H:24])[H:25])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[C:26]([H:27])([H:28])[H:29]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:23])([H:24])[H:25])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][C:26]([H:27])([H:28])[H:29],22.92832
[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:30]>>[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12].[H:10][H:30],27.626952
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([H:10])([H:11])[H:12])([H:4])([H:5])[H:6].[S:13]([H:14])[H:15]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([C:3]([H:10])([H:11])[H:12])[S:13][H:15])([H:4])([H:5])[H:6].[H:14],76.1488
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[C:10](=[C:11]([C:12]([C:13]([H:18])([H:19])[H:20])[S:14][H:21])[H:17])([H:15])[H:16]>>[C:0](=[C:1][C:2](=[C:3]([H:8])[H:9])[H:7])([H:4])[H:5].[H:6][C:12]([C:11](=[C:10]([H:15])[H:16])[H:17])([C:13]([H:18])([H:19])[H:20])[S:14][H:21],102.926
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]=[C:11]([C:12]([H:17])([H:18])[H:19])[C:13](=[C:14]([H:21])[H:22])[H:20])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:11]([C:10]=[C:9]([H:15])[H:16])([C:12]([H:17])([H:18])[H:19])[C:13](=[C:14]([H:21])[H:22])[H:20])[H:4],49.9988
[C:0](#[C:1][C:2]([C:3]([H:7])[H:8])([H:5])[H:6])[H:4]>>[C:0](#[C:1][C:2](=[C:3]([H:7])[H:8])[H:6])[H:4].[H:5],148.837432
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([O:3][H:11])[H:7])([H:4])([H:5])[H:6].[C:12]([H:13])([H:14])[H:15]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([O:3][C:12]([H:13])([H:14])[H:15])[H:7])([H:4])([H:5])[H:6].[H:11],185.928
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6]1([H:15])([H:16])[C:7]([H:17])([H:18])[C:8]([H:19])([H:20])[C:9]2([H:21])[C:10]([H:22])([H:23])[C:11]([H:24])([H:25])[C:12]([H:26])([H:27])[C:13]2([H:28])[C:14]1([H:29])[H:30]>>[C:0](#[C:1][C:2]([H:4])([H:5])[H:24])[H:3].[C:6]1([H:15])([H:16])[C:7]([H:17])([H:18])[C:8]([H:19])([H:20])[C:9]2([H:21])[C:10]([H:22])([H:23])[C:11]([H:25])[C:12]([H:26])([H:27])[C:13]2([H:28])[C:14]1([H:29])[H:30],54.392
[C:0]([O:1][C:2](=[O:3])[H:6])([H:4])[H:5]>>[C:0]([O:1][C:2]=[O:3])([H:4])([H:5])[H:6],159.736752
[C:0]([C:1]1([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]1([H:19])[H:20])([H:7])([H:8])[H:9].[O:21][O:22]>>[C:0]([C:1]1([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]1([H:19])[H:20])([H:8])[H:9].[H:7][O:21][O:22],213.09112
[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])([H:6])[H:7])[H:5].[C:9]([C:10]([H:13])([H:14])[H:15])([H:11])[H:12]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])[H:7])[H:5].[H:6][C:9]([C:10]([H:13])([H:14])[H:15])([H:11])[H:12],28.1583
[C:0]([c:1]1[c:2]([H:11])[c:3]([H:12])[c:4]([H:13])[c:5]([O:6][H:14])[c:7]1[H:15])([H:8])([H:9])[H:10].[H:16]>>[C:0]([c:1]1[c:2]([H:11])[c:3]([H:12])[c:4]([H:13])[c:5]([O:6])[c:7]1[H:15])([H:8])([H:9])[H:10].[H:14][H:16],51.8816
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[O:29][O:30]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11].[H:9][O:29][O:30],213.09112
